US07608629B2
2-Chloro-N-[3-(1-methyl-piperidin-4-yloxy)-phenyl]-benzamide hydrochloride
Combine 3-(1-methyl-piperidin-4-yloxy)-phenylamine (preparation 28, 185 mg, 0.90 mmol) in dichloromethane (9 mL), add pyridine (0.145 mL, 1.79 mmol) and stir at 0° C. for 5 min. Add 2-chloro-benzoyl chloride (0.142 mL, 1.12 mmol) and allow to warm to ambient temperature and stir. After 18 hr., dilute with dichloromethane (10 mL) and wash with sodium hydroxide (1N, 3×10 mL). Combine the organic layers, dry over sodium sulfate and concentrate under reduced pressure. Purify by flash chromatography, eluting with dichloromethane/ammonia (2.0 N in methanol) [20/1] to give the title compound as free base (112 mg, 36%). Dissolve the residue in diethyl ether and treat with ethereal hydrogen chloride (1.0 M). Triturate the resulting gum with ether to give the title compound as a white solid (115 mg). Mass spectrum (ion spray): m/z=345.1 (M+1); 1H NMR (free base, CDCl3): 7.88 (bs, N—H), 7.76 (dd, J=1.5 Hz, 7.3 Hz, 1H), 7.52 (bs, 1H), 7.47-7.36 (m, 3H), 7.28-7.24 (m, 2H), 7.03 (d, J=8.0 Hz, 1H), 6.72 (dd, J=8.2 Hz, 2.4 Hz, 1H), 4.48 (bs, 1H), 2.88-2.80 (bm, 2H), 2.66-2.56 (bm, 2H), 2.45 (s, 3H), 2.22-2.13 (bm, 2H), 2.01-1.92 (bm, 2H).

reactant | 3-(1-methyl-piperidin-4-yloxy)-phenylamine | 0.90 mmol, 185 mg | CN1CCC(CC1)OC=1C=C(C=CC1)N | C12H18N2O
reactant | pyridine | 1.79 mmol, 0.145 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-chloro-benzoyl chloride | 1.12 mmol, 0.142 mL | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-Chloro-N-[3-(1-methyl-piperidin-4-yloxy)-phenyl]-benzamide hydrochloride | Cl.ClC1=C(C(=O)NC2=CC(=CC=C2)OC2CCN(CC2)C)C=CC=C1 | InChI=1S/C19H21ClN2O2.ClH/c1-22-11-9-15(10-12-22)24-16-6-4-5-14(13-16)21-19(23)17-7-2-3-8-18(17)20;/h2-8,13,15H,9-12H2,1H3,(H,21,23);1H
